* source LT1115-PHONO-MM-MC
.EXTERNAL INPUT +15V
.EXTERNAL INPUT -15V
X_U2         N14854 +15V -15V N15265 N15380 LT1010/LT
X_U1         N14965 N15746 +15V -15V N14850 LT1115/LT
R_R4         0 N14965  100R TC=0,0 
C_C1         0 N14965  10p  TC=0,0 
V_V3         N14960 0  AC 1V
+SIN 0V 0.1mV 1kHz 0 0 0
V_V1         +15V 0 +15Vdc
V_V2         -15V 0 -15Vdc
R_R2         N14854 N14850  100R TC=0,0 
R_R1         N15265 +15V  49.9R TC=0,0 
R_R3         N15362 N15380  562R TC=0,0 
R_R5         N15362 0  25k TC=0,0 
C_C2         0 N15362  3.9nF  TC=0,0 
R_R9         N15901 N15746  22.6R TC=0,0 
R_R6         N15770 N15746  499R TC=0,0 
R_R7         N15774 N15770  17.8k TC=0,0 
R_R8         N15380 N15774  210k TC=0,0 
R_R10         N15901 N15901  210R TC=0,0 
R_R11         N15380 N15901  82.5k TC=0,0 
C_C3         N15774 N15770  330pF  TC=0,0 
C_C5         N15774 N15770  3.9nF  TC=0,0 
C_C4         N15380 N15774  15nF  TC=0,0 
C_C6         0 N15901  2200uF  TC=0,0 
I_I1         N14850 -15V DC 2mAdc  
R_R12         0 0  1R TC=0,0 
E_E1         N14965 0 LAPLACE { V(N14960, 0) } = {
+  ((1+3180u*S)*(1+75u*S))/((1+318u*S)*(1+3.18u*S)) }
